US07405228B2
Preparation of (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-azide
The mixture of sodium azide (88.5 mmol) and (R)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-methanesulfonate (29.6 mmol) in dimethylformamide (75 ml) was heated at 70° C. for 14 hours. The reaction mixture was poured on ice cold water, and the solid was filtered to afford title compound in 78% yield.

reactant | sodium azide | 88.5 mmol | [N-]=[N+]=[N-].[Na+]
reactant | (R)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-methanesulfonate | 29.6 mmol | COC1(C(CN(CC1)C1=CC=C(C=C1)N1C(O[C@@H](C1)CCS(=O)(=O)[O-])=O)F)OC
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-azide | 78% yield | COC1(C(CN(CC1)C1=CC=C(C=C1)N1C(O[C@@H](C1)CN=[N+]=[N-])=O)F)OC | C17H22FN5O4
